US05952355
5-Benzyloxy-6-methoxyindole-3-carboxaldehyde (0.75 g) was suspended in a mixed solvent of methanol (60 ml) and ethyl acetate (20 ml), and 10% palladium on carbon (85 mg) was added thereto, followed by stirring at room temperature for one hour under an atmosphere of hydrogen. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give 5-hydroxy-6-methoxyindole-3-carboxaldehyde (0.51 g).

reactant | 5-Benzyloxy-6-methoxyindole-3-carboxaldehyde | 0.75 g | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1OC)C=O | C17H15NO3
reactant | methanol | 60 ml | CO | CH4O
catalyst | palladium on carbon | 85 mg | [Pd] | Pd
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-6-methoxyindole-3-carboxaldehyde | 0.51 g | OC=1C=C2C(=CNC2=CC1OC)C=O | C10H9NO3
